US05202344
Preparation of 1,1-Dimethylethyl 2,5-dihydro-4-hydroxy-5-oxo-1-(phenylmethyl)-1H-pyrrole-3-carboxylate
To a solution of benzyl amine (7.3 ml, 0.067 mol) in dry EtOH (freshly distilled from sodium) was added tert-butyl acrylate (6.8 ml, 0.046 mol) via syringe and the resulting solution was stirred under an atmosphere of argon for 64 h at room temperature. To the solution was then added diethyl oxalate (9.90 g, 0.068 mol). The solution was then cooled to 0° C. and a freshly prepared solution of sodium ethoxide [freshly prepared from sodium (1.7 g, 0.074 mol) and 75 ml of EtOH] was added via cannula while maintaining the temperature between 0° C. and 5° C. After the addition was complete the solution was warmed to room temperature and stirred overnight. To the resulting slurry was added 100 ml of water followed by the slow addition of 30% aqueous HCl to acidify to pH=1. The suspension was then extracted with CH2Cl2. The organic phase was dried over MgSO4, filtered, and concentrated in vacuo to give the title compound as a light pink powder (8.37 g, 62.9%). Purification of an analytical sample by chromatography on silica gel eluting with 5/94.5/0.5 MeOH/CH2Cl2 /HOAc gave 8.67g, (65%) of the title compound as a powder. Anal calcd for C16H19NO4 : C, 66.43; H, 6.52; N, 4.84. Found: C, 66.38; H, 6.70; N, 5.10. DSC=172.2°-176.2° at 190.9 J/g.

reactant | benzyl amine | 0.067 mol, 7.3 ml | C(C1=CC=CC=C1)N | C7H9N
reactant | sodium | [Na] | Na
reactant | tert-butyl acrylate | 0.046 mol, 6.8 ml | C(C=C)(=O)OC(C)(C)C | C7H12O2
reactant | diethyl oxalate | 0.068 mol, 9.90 g | C(C(=O)OCC)(=O)OCC | C6H10O4
reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | sodium | 0.074 mol, 1.7 g | [Na] | Na
reactant | HCl | Cl | ClH
reactant | EtOH | CCO | C2H6O
reactant | EtOH | 75 ml | CCO | C2H6O
solvent | water | 100 ml | O | H2O
product | 1,1-Dimethylethyl 2,5-dihydro-4-hydroxy-5-oxo-1-(phenylmethyl)-1H-pyrrole-3-carboxylate | 8.37 g, 62.9% | OC1=C(CN(C1=O)CC1=CC=CC=C1)C(=O)OC(C)(C)C | C16H19NO4
